US08124606B2
(S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (100 mg, 0.456 mmol), N-ethyl-3-methyl-4-(piperazin-1-yl)benzamide hydrochloride (129 mg, 0.456 mmol), (cyanomethyl)trimethylphosphonium iodide (166 mg, 0.684 mmol) and N,N-diisopropylethylamine (0.398 ml, 2.281 mmol) were suspended in propiononitrile (Volume: 1.370 ml) and heated in a closed vial at 90-120° C. for 4 h. The reaction mixture became a dark brown solution. It was cooled to room temperature, concentrated in vacuo, dissolved in DMSO (2 mL) and purified using HPLC (basic, 45-95% ACN in water, basic). The fractions were concentrated in vacuo and the resulting solid was recrystallized from water-MeOH (2:1, 6 mL) and dried in vacuum to afford(S)—N-ethyl-3-methyl-4-(4-(((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide (128.5 mg, 0.286 mmol, 62.8% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.83-2.03 (m, 3H) 2.09-2.25 (m, 1H) 2.50 (m, 4H) 2.75 (d, J=4.29 Hz, 3H) 2.96-3.14 (m, 4H) 3.35-3.45 (m, 3H) 3.53-3.65 (m, 1H) 3.93-4.05 (m, 1H) 6.98 (d, J=1.77 Hz, 1H) 7.04 (t, J=8.59 Hz, 1H) 7.51-7.67 (m, 3H) 8.27-8.38 (m, 1H) 10.44 (s, 1H). [M+H] calc'd for C25H32N6O2, 449; found, 449.

reactant | (S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 0.456 mmol, 100 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C11H13N3O2
reactant | N-ethyl-3-methyl-4-(piperazin-1-yl)benzamide hydrochloride | 0.456 mmol, 129 mg | Cl.C(C)NC(C1=CC(=C(C=C1)N1CCNCC1)C)=O
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.684 mmol, 166 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N,N-diisopropylethylamine | 2.281 mmol, 0.398 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | propiononitrile | 1.370 ml | C(CC)#N | C3H5N
product | 4-(((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | 0.286 mmol, 128.5 mg, 62.8% yield | O=C1C2N(C3=C(N1)C=C(C=N3)CC3N(CCNC3)C3=CC=C(C(=O)N)C=C3)CCC2 | C22H26N6O2
